US07435837B2
Treatment of (±)-[7-(4-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (0.385 g, 1.396 mmol) with diisopropylethylamine (0.270 g, 2.09 mmol) and benzyl chloroformate (0.285 g, 1.675 mmol) generally according to the procedure described for Intermediate 12 provided 0.483 g (93%) of (±)-benzyl[7-(4-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate as colorless oil. Rf=0.47 (silica, ethyl acetate:hexane 2:8); mp 83-86° C.; Anal. calcd. for C24H23NO3: C, 77.19; H, 6.21; N, 3.75. Found: C, 76.97; H, 5.99; N, 3.68. Chiral HPLC separation of (±)-benzyl[7-(4-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate (Chiralpak OD, methanol:carbon dioxide 1:1) provided two fractions. Fraction 1 (Rt=3.788 min Chiralpak OD, methanol:carbon dioxide 1:1); Fraction 2 (Rt=4.398 min, Chiralpak OD, methanol:carbon dioxide 1:1).

reactant | (±)-[7-(4-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 1.396 mmol, 0.385 g | CC1=CC=C(C=C1)C1=CC=CC=2CC(OC21)CN | C16H17NO
reactant | diisopropylethylamine | 2.09 mmol, 0.270 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 1.675 mmol, 0.285 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl[7-(4-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate | 0.483 g, 93% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)C)=O | C24H23NO3
